US08017607B2
To a solution of (Z)-3-(3-chloro-2-fluoro-phenyl)-2-(4-chloro-2-fluoro-phenyl)-acrylonitrile (1.2 g, 3.87 mmol) in hexamethylphosphoramide (20 mL) was added [3,3-dimethyl-but-(E)-ylidene]-trimethylsilanylmethyl-amine (1.1 g, 5.9 mmol), acetic acid (60 mg, 1 mmol) and H2O (0.1 g, 5.6 mmol) sequentially. The reaction mixture was stirred at room temperature for 18 h. Water was added. The mixture was extracted with ethyl acetate. The organic layer was separated, and aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water twice, dried over MgSO4, then concentrated. The residue was purified by chromatography (EtOAc:hexanes=1:4, 1;3) to give rac-(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-2-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile as a white foam (0.4 g, 24%).

reactant | (Z)-3-(3-chloro-2-fluoro-phenyl)-2-(4-chloro-2-fluoro-phenyl)-acrylonitrile | 3.87 mmol, 1.2 g | ClC=1C(=C(C=CC1)\C=C(/C#N)\C1=C(C=C(C=C1)Cl)F)F | C15H7Cl2F2N
reactant | [3,3-dimethyl-but-(E)-ylidene]-trimethylsilanylmethyl-amine | 5.9 mmol, 1.1 g | CC(C\C=N\C[Si](C)(C)C)(C)C | C10H23NSi
reactant | acetic acid | 1 mmol, 60 mg | C(C)(=O)O | C2H4O2
reactant | H2O | 5.6 mmol, 0.1 g | O | H2O
solvent | hexamethylphosphoramide | 20 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | rac-(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-2-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.4 g, 24% | ClC=1C(=C(C=CC1)C1C(C(NC1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C22H22Cl2F2N2
